US09340556B2
To the solution of 5-chloro-6,7-bis((4-methoxybenzyl)oxy)-3,4-dihydroisoquinolin-1(2H)-one (1.017 g, 2.241 mmol) in N,N-dimethylformamide (DMF) (10 ml) was added sodium hydride (0.179 g, 4.48 mmol). Stirred at rt for 10 min. 1-(2-Chloroethyl)pyrrolidine (0.329 g, 2.465 mmol) (first freed as free base with MP-carbonate resin) was added and the mixture was heated at 40° C. for 12 h. Mixture extracted with EtOAc, washed with water, NaCl, dried over magnesium sulfate. Chromotagraphed eluting with 0-10% methanol:dichloromethane to give 5-chloro-6,7-bis((4-methoxybenzyl)oxy)-2-(2-(pyrrolidin-1-yl)ethyl)-3,4-dihydroisoquinolin-1(2H)-one (420 mg, 0.762 mmol, 34.0% yield). LCMS (M+H)+: 551.0

reactant | 5-chloro-6,7-bis((4-methoxybenzyl)oxy)-3,4-dihydroisoquinolin-1(2H)-one | 2.241 mmol, 1.017 g | ClC1=C2CCNC(C2=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O | C25H24ClNO5
reactant | sodium hydride | 4.48 mmol, 0.179 g | [H-].[Na+]
reactant | 1-(2-Chloroethyl)pyrrolidine | 2.465 mmol, 0.329 g | ClCCN1CCCC1 | C6H12ClN
reactant | MP-carbonate resin | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-chloro-6,7-bis((4-methoxybenzyl)oxy)-2-(2-(pyrrolidin-1-yl)ethyl)-3,4-dihydroisoquinolin-1(2H)-one | 0.762 mmol, 420 mg, 34.0% yield | ClC1=C2CCN(C(C2=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)CCN1CCCC1 | C31H35ClN2O5
